US05846982
5,6-dichloro-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
Beginning with 0.136 gm (0.88 mMol) 5,6-dichloro-1H-indole and 0.216 mL (1.75 mMol) 1-methyl-4-piperidone, 0.150 gm (61%) of the title compound were recovered as a white solid.

reactant | 5,6-dichloro-1H-indole | 0.88 mMol, 0.136 gm | ClC=1C=C2C=CNC2=CC1Cl | C8H5Cl2N
reactant | 1-methyl-4-piperidone | 1.75 mMol, 0.216 mL | CN1CCC(CC1)=O | C6H11NO
product | 5,6-dichloro-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 0.150 gm, 61% | ClC=1C=C2C(=CNC2=CC1Cl)C=1CCN(CC1)C | C14H14Cl2N2
